US08754226B2
(S)-3-(2-Fluoro-5-methyl-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (420 mg, 1.14 mmol) was dissolved in DMSO (10 mL) and 2,5-dichloropyrazine (203 mg, 1.36 mmol) and N-ethyl-N-isopropylpropan-2-amine (297 μL, 1.71 mmol) were added and the reaction heated to 110° C. overnight. The reaction was cooled to ambient temperature, water (60 mL) was added and the solids filtered. The solids were dissolved in CH2Cl2, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (70 to 100% EtOAc in hexanes) to afford (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-5-methyl-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one (330 mg, 0.685 mmol, 60.2% yield) as a pale yellow solid. Mass spectrum (apci) m/z=482.2 (M+H).

reactant | (S)-3-(2-Fluoro-5-methyl-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 1.14 mmol, 420 mg | FC1=C(C=C(C(=C1)S(=O)(=O)C)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C17H24FN3O3S
reactant | 2,5-dichloropyrazine | 1.36 mmol, 203 mg | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.71 mmol, 297 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | 60 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (S)-1-(1-(5-chloropyrazin-2-yl)piperidin-4-yl)-3-(2-fluoro-5-methyl-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 0.685 mmol, 330 mg, 60.2% yield | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C(=C1)C)S(=O)(=O)C)F)=O | C21H25ClFN5O3S
